US09024027B2
To a solution of benzyl 2-(5-aminoindolin-1-yl)acetate (0.610 g, 2.161 mmol) in pyridine (15 ml), methanesulfonyl chloride (0.251 ml, 3.24 mmol) was added at 0° C. The mixture was allowed to warm to room temperature and stirred for 1 hour. The solvent was removed under vacuum and the residue was partitioned between DCM and water; the organic phase was washed with brine, dried over sodium sulfate and evaporated to dryness. The crude was purified by flash chromatography on silica gel column (petroleum ether:ethyl acetate=70:30 to 60:40) affording benzyl 2-(5-(methylsulfonamido)indolin-1-yl)acetate (0.565 g, 1.568 mmol, 73% yield). MS/ESI+ 361.0 [MH]+.

reactant | benzyl 2-(5-aminoindolin-1-yl)acetate | 2.161 mmol, 0.610 g | NC=1C=C2CCN(C2=CC1)CC(=O)OCC1=CC=CC=C1 | C17H18N2O2
reactant | methanesulfonyl chloride | 3.24 mmol, 0.251 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | benzyl 2-(5-(methylsulfonamido)indolin-1-yl)acetate | 1.568 mmol, 0.565 g, 73% yield | CS(=O)(=O)NC=1C=C2CCN(C2=CC1)CC(=O)OCC1=CC=CC=C1 | C18H20N2O4S
